US09085576B2
Step 5: methyl 5-((4-hydroxy-4-methylpent-2-yn-1-yl)oxy)-3-methylpicolinate
The title compound was synthesized analogously according to Method S starting from methyl 5-hydroxy-3-methylpicolinate and 4-methylpent-2-yne-1,4-diol. MS m/z=264 (M+H)+.

reactant | methyl 5-hydroxy-3-methylpicolinate | OC=1C=C(C(=NC1)C(=O)OC)C | C8H9NO3
reactant | 4-methylpent-2-yne-1,4-diol | CC(C#CCO)(C)O | C6H10O2
product | methyl 5-((4-hydroxy-4-methylpent-2-yn-1-yl)oxy)-3-methylpicolinate | OC(C#CCOC=1C=C(C(=NC1)C(=O)OC)C)(C)C | C14H17NO4
